US04857536
N-[1-[1-[(4-fluorophenyl)methyl]-2(1H)-benzimidazolyl]-4-piperidinyl]-N,N'-dimethyl-N"-acetylguanidine
0.48 ml of acetic anhydride dissolved in 5 ml of methylene chloride is added to a solution of 2 g (0.005 mole) of N-[1-[1-[(4-fluorophenyl)methyl]-2-(1H)-benzimidazolyl]-4-piperidinyl]-N,N'-dimethylguanidine in 20 ml of methylene chloride, cooled to 5° C. Stirring is continued for 2 h and the mixture is then poured into concentrated sodium hydroxide. The phases are separated, the organic phase is dried with MgSO4, is filtered and is evaporated down. On addition of acetone, the product crystallizes. It is purified by chromatography on a silica column (eluent 9/1 methylene chloride/methanol) N-[1-[1-[(4-fluorophenyl)methyl]-2(1H)-benzimidazolyl]-4-piperidinyl]-N,N'-dimethyl-N"-acetylguanidine is obtained.

reactant | acetic anhydride | 0.48 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-[1-[1-[(4-fluorophenyl)methyl]-2-(1H)-benzimidazolyl]-4-piperidinyl]-N,N'-dimethylguanidine | 0.005 mole, 2 g | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)N2CCC(CC2)N(C(=N)NC)C | C22H27FN6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[1-[1-[(4-fluorophenyl)methyl]-2(1H)-benzimidazolyl]-4-piperidinyl]-N,N'-dimethyl-N"-acetylguanidine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)N2CCC(CC2)N(C(=NC(C)=O)NC)C | C24H29FN6O
